US05849764
Step 10D {2-[2-(3,5-dimethylphenyl)-5-methanesulfonyl-1H-indol-3-yl]propyl}-(4-pyridin-4-yl-butyl)amine
A mixture of 4-pyridin-4-yl-butyraldehyde (23 mg), 2-[2-(3,5-dimethylphenyl)-5-methanesulfonyl-1H-indol-3-yl]propylamine (50 mg) and magnesium sulfate (76 mg) were diluted with 1.5 mL CDCl3 and stirred at -5° C. After 15 minutes, a solution of sodium borohydride (6.8 mg in 1.5 mL dry methanol) were added and the mixture stirred at low temperature for an additional 20 minutes. At this time the reaction was quenched by the addition of water, extracted with ethyl acetate and the organic portion washed sequentially with water and brine then dried over sodium sulfate. Purification of the concentrate by preparative TLC on silica gel (methylene chloride:methanol, 9:1) gave the title compound (29 mg).

reactant | 4-pyridin-4-yl-butyraldehyde | 23 mg | N1=CC=C(C=C1)CCCC=O | C9H11NO
reactant | 2-[2-(3,5-dimethylphenyl)-5-methanesulfonyl-1H-indol-3-yl]propylamine | 50 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1C(CN)C)S(=O)(=O)C | C20H24N2O2S
reactant | magnesium sulfate | 76 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 1.5 mL, 6.8 mg | [BH4-].[Na+]
product | {2-[2-(3,5-dimethylphenyl)-5-methanesulfonyl-1H-indol-3-yl]propyl}-(4-pyridin-4-yl-butyl)amine | 29 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1C(CNCCCCC1=CC=NC=C1)C)S(=O)(=O)C | C29H35N3O2S
